US07230031B2
2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde
A suspension of 2-hydroxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde (3.20 g) and potassium carbonate (1.55 g) in N,N-dimethylformamide (25 mL) was stirred under ice-cooling. After adding dropwise benzyl bromide (1.34 mL), the mixture was stirred at room temperature for 24 hours. The reaction mixture was acidified with diluted hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate) to give the title compound (3.30 g).

reactant | 2-hydroxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde | 3.20 g | OC1=C(C=O)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C17H15NO5
reactant | potassium carbonate | 1.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.34 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde | 3.30 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C24H21NO5
